US06288278B1
17.4 g (213 mmole) of freshly dried dimethylamine hydrochloride were added, while stirring, to 471 mg (469 mmole) sodium iodide solution (1 M in acetonitrile), which was cooled to 0° C. with an ice-bath; 60 ml (427 mmole) triethylamine and 60 ml (469 mmole) chlorotrimethylsilane were added dropwise, and the mixture was subsequently stirred at RT for one hour. While cooling with ice, 24 ml (213 mmole) 2-chlorobenzaldehyde were added, and stirring was continued at RT for a further hour. The mixture was cooled again to 0°C. with an ice-bath; 34 ml (213 mmole) 1-(pyrrolidino)-1-cyclohexene were added, and stirring was continued at RT for two hours. For working up, 300 ml half-concentrated hydrochloric acid were added to the mixture, while cooling with ice, and the mixture was stirred for 10 minutes, washed twice with 300 ml ether each time and rendered alkaline (pH approx. 9) with 770 ml dilute ammonia solution (5 vol. %). The mixture was extracted three times with 300 ml ether each time, and the combined organic extracts were dried over sodium sulfate, filtered and concentrated on a rotary evaporator (500 to 10 mbar) without heat being supplied. 38.3 g 2-[(2-chlorophenyl)dimethylaminomethyl]cyclohexanone (68% of theoretical) were obtained in this manner.

reactant | dimethylamine hydrochloride | Cl.CNC
reactant | sodium iodide | 469 mmole, 1 M, 471 mg | [I-].[Na+]
reactant | triethylamine | 427 mmole, 60 ml | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 469 mmole, 60 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | 2-chlorobenzaldehyde | 213 mmole, 24 ml | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 1-(pyrrolidino)-1-cyclohexene | 213 mmole, 34 ml | N1(CCCC1)C1=CCCCC1 | C10H17N
solvent | hydrochloric acid | 300 ml | Cl | ClH
product | 2-[(2-chlorophenyl)dimethylaminomethyl]cyclohexanone | 38.3 g, 68% | ClC1=C(C=CC=C1)C(C1C(CCCC1)=O)N(C)C | C15H20ClNO
